US07767675B2
Step 3. N,N-dimethyl-1-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazole-4-carboxamide
To a solution of 1-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazole-4-carboxylic acid (50 mg, 0.13 mmol) in N,N-dimethylformamide (1.0 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (65 mg, 0.15 mmol), dimethylamine (2M in THF, 0.10 mL, 0.2 mmol) and N,N-diisopropylethylamine (0.10 mL). The mixture was stirred at RT for 2 h, and purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=424.1.

reactant | 1-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazole-4-carboxylic acid | 0.13 mmol, 50 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)N2N=CC(=C2)C(=O)O | C22H16N6O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.15 mmol, 65 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylamine | 0.2 mmol, 2M, 0.10 mL | CNC | C2H7N
reactant | N,N-diisopropylethylamine | 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl-1-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazole-4-carboxamide | CN(C(=O)C=1C=NN(C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)C | C24H21N7O
